US06562828B1
4-(1-tert-Butoxycarbonylpyrrolidin-3-yloxy)phenol
To a solution of 4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzaldehyde (500 mg) in methylene chloride (10 ml) was added 70% 3-chloroperbenzoic acid (712 mg) with ice-cooling, and the mixture was stirred at room temperature for 4.5 hours. After completion of the reaction, aqueous sodium hydrogencarbonate solution and aqueous sodium thiosulfate solution were added, and the mixture was extracted with methylene chloride and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained residue was dissolved in methanol (3.4 ml) and thereto was added 1N aqueous sodium hydroxide solution (1.7 ml), and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, 10% aqueous citric acid solution was added, and the mixture was extracted with chloroform and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained solid was washed with diethyl ether and dried under reduced pressure to give the title compound (350 mg).

reactant | 4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzaldehyde | 500 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(C=O)C=C1 | C16H21NO4
reactant | 3-chloroperbenzoic acid | 712 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-tert-Butoxycarbonylpyrrolidin-3-yloxy)phenol | 350 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(C=C1)O | C15H21NO4
